US07220745B2
Synthesis of 2,2-Dichloro-N-[3-[5-(2,6-dichlorophenyl)-3-isoxazolyl]phenyl] Acetamide
3-(3-Aminophenyl)-5-(2,6-dichlorophenyl)isoxazole (60 mg, 0.2 mmol) was dissolved in anhydrous tetrahydrofuran (10 mL) with triethylamine (33 mL, 0.24 mmol). The mixture was cooled in an ice-bath under nitrogen, then a solution of dichloroacetyl chloride (23 mL, 0.24 mmol) in anhydrous tetrahydrofuran (5 mL) was added dropwise. After the addition was completed the ice-bath was removed and the mixture was stirred at room temperature for 12 h. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed successively with water and brine. The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting solid was purified by column chromatography on silica gel, eluting with 8:2 hexanes-ethyl acetate. The appropriate fractions were combined to give the title compound as a tan solid, 74 mg.

reactant | 3-(3-Aminophenyl)-5-(2,6-dichlorophenyl)isoxazole | 0.2 mmol, 60 mg | NC=1C=C(C=CC1)C1=NOC(=C1)C1=C(C=CC=C1Cl)Cl | C15H10Cl2N2O
reactant | triethylamine | 0.24 mmol, 33 mL | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | 0.24 mmol, 23 mL | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2,2-Dichloro-N-[3-[5-(2,6-dichlorophenyl)-3-isoxazolyl]phenyl] Acetamide | ClC(C(=O)NC1=CC(=CC=C1)C1=NOC(=C1)C1=C(C=CC=C1Cl)Cl)Cl | C17H10Cl4N2O2
